US09079902B2
A 100-mL recovery flask was charged with 1-(triisopropylsilyl)-1H-pyrrolo[2,3-b]pyridine-6-sulfonyl chloride (2.11 g, 5.66 mmol) and DCM (28 ml) to give a clear solution. n-Bromosuccinimide (1.108 g, 6.22 mmol) was added in one portion. The resulting mixture was stirred in the dark for 4 h, then an additional portion of n-bromosuccinimide (1.108 g, 6.22 mmol) was added. The mixture was stirred overnight. In the morning, silica gel was added, and the mixture was concentrated. The impregnated silica gel was loaded onto a column, and the column was eluted onto a silica gel column with 0 to 15% EtOAc/Heptane to give 3-bromo-1-(triisopropylsilyl)-1H-pyrrolo[2,3-b]pyridine-6-sulfonyl chloride (2.14 g, 4.74 mmol, 84% yield) as a light-yellow solid. 1H NMR (400 MHz, CDCl3) δ=8.08 (d, J=8.3 Hz, 1 H), 7.95 (d, J=8.3 Hz, 1 H), 7.63 (s, 1 H), 1.88 (spt, J=7.5 Hz, 4 H), 1.15 (d, J=7.5 Hz, 18 H).

reactant | 1-(triisopropylsilyl)-1H-pyrrolo[2,3-b]pyridine-6-sulfonyl chloride | 5.66 mmol, 2.11 g | C(C)(C)[Si](N1C=CC=2C1=NC(=CC2)S(=O)(=O)Cl)(C(C)C)C(C)C | C16H25ClN2O2SSi
reactant | n-Bromosuccinimide | 6.22 mmol, 1.108 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | n-bromosuccinimide | 6.22 mmol, 1.108 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | DCM | 28 ml | C(Cl)Cl | CH2Cl2
product | 3-bromo-1-(triisopropylsilyl)-1H-pyrrolo[2,3-b]pyridine-6-sulfonyl chloride | 4.74 mmol, 2.14 g, 84% yield | BrC1=CN(C2=NC(=CC=C21)S(=O)(=O)Cl)[Si](C(C)C)(C(C)C)C(C)C | C16H24BrClN2O2SSi
